US04433152
3 g of 1-amidino-3-piperidinepropionic acid hydrochloride was dissolved in a solution of 30 ml of dry dimethylformamide and 3 ml of dry pyridine. To the solution was add 4.5 g of diphenyl sulfite, and the resulting mixture was stirred at room temperature for 29 hours. The solvent was removed, and the residue was washed with dry ether and treated with ethyl acetate to give light brown powder. The powder was recrystallized from ethanol-ether to obtain 3.1 g (yield: 78%) of phenyl 1-amidino-3-piperidinepropionate hydrochloride as light brown powder having a melting point of 101° to 112° C.

reactant | 1-amidino-3-piperidinepropionic acid hydrochloride | 3 g | Cl.C(N)(=N)N1CC(CCC1)CCC(=O)O
reactant | diphenyl sulfite | 4.5 g | S(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C12H10O3S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-3-piperidinepropionate hydrochloride | 3.1 g, yield: 78% | Cl.C(N)(=N)N1CC(CCC1)CCC(=O)OC1=CC=CC=C1 | InChI=1S/C15H21N3O2.ClH/c16-15(17)18-10-4-5-12(11-18)8-9-14(19)20-13-6-2-1-3-7-13;/h1-3,6-7,12H,4-5,8-11H2,(H3,16,17);1H
